US08008461B2
To 40 ml of a culture solution of E. coli HB101 (pNTCMG1) prepared in the same manner as in Example 6, 3 g of glucose, 6 mg of NADP, 4 g of tert-butyl (S)-6-benzoyloxy-5-hydroxy-3-oxohexanoate and 1.6 g of toluene were added. The reaction solution was stirred at 30° C. for 24 hours while adjusting the pH of the reaction solution to pH 6.5 by adding 5 M sodium hydroxide dropwise. After completion of the reaction, the reaction solution was extracted with toluene. The solvent was removed and then an extracted material was analyzed. As a result, tert-butyl (3R,5R)-6-benzyloxy-3,5-dihydroxyhexanoate having an excess rate of a diastereomer of 99.7% d.e. was obtained in a yield of 92.3%.

reactant | glucose | 3 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NADP | 6 mg | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | tert-butyl (S)-6-benzoyloxy-5-hydroxy-3-oxohexanoate | 4 g | C(C1=CC=CC=C1)(=O)OC[C@H](CC(CC(=O)OC(C)(C)C)=O)O | C17H22O6
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
solvent | toluene | 1.6 g | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (3R,5R)-6-benzyloxy-3,5-dihydroxyhexanoate | yield of 92.3% | C(C1=CC=CC=C1)OC[C@@H](C[C@H](CC(=O)OC(C)(C)C)O)O | C17H26O5
